US06897224B2
5-[4-(5-Chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidenamino]quinoline-2-carboxylic acid methyl ester
224 mg (0.69 mmol) of 4-(5-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 195 mg (0.96 mmol) of 5-aminoquinoline-2-carboxylic acid methyl ester are dissolved in 20 ml of toluene. After 5.0 ml of concentrated acetic acid is added, it is refluxed for 16 hours in a water separator. After the solvent is removed, the residue is taken up in 10 ml of tetrahydrofuran, 0.3 ml (1.4 mmol) of titanium tetraethylate is added, and the reaction is allowed to reflux again. After the solvent is removed as well as after purification on silica gel with hexane/ethyl acetate (0-100%), 120 mg (33% of theory) of the product is obtained.

reactant | 4-(5-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 0.69 mmol, 224 mg | ClC=1C=CC(=C(C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16ClF3O3
reactant | 5-aminoquinoline-2-carboxylic acid methyl ester | 0.96 mmol, 195 mg | COC(=O)C1=NC2=CC=CC(=C2C=C1)N | C11H10N2O2
reactant | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | titanium | 1.4 mmol, 0.3 ml | [Ti] | Ti
product | 5-[4-(5-Chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidenamino]quinoline-2-carboxylic acid methyl ester | COC(=O)C1=NC2=CC=CC(=C2C=C1)N=CC(CC(C)(C)C1=C(C=CC(=C1)Cl)OC)(C(F)(F)F)O | C25H24ClF3N2O4
